US05393756
Sulfuryl chloride (0. 255 ml, 3.15 mmole, 1.05 equiv.) was added dropwise over 2 min to a solution of 2-[2-[(phenylmethyl)thio]phenyl]-4(1H)-quinolinone (1.03 g, 3 mmole, 1 equiv.) in dry CH2Cl2 (30 ml) at -15° C. The mixture was stirred for 0.5 hr, then 1,4-diazabicyclo[2.2.2]octane (504.8 mg, 4.5 mmole, 1.5 equiv.) was added. Stirring at -15° C. was continued for an additional 10 min, then the mixture was warmed to 25° C. After 0.5 hr at 25° C. the reaction was quenched with 10% aqueous Na2CO3 (30 ml) and extracted with CH2Cl2 . Drying (MgSO4), concentration, and silica gel chromatography (10% MeOH in 50% EtOAc/CHCl3) gave 5H-[1,2]benzisothiazolo[2,3-a]quinoline-5-one (0.28 g, 37%) as a yellow solid. Recrystallization from CHCl3 /EtOAc gave yellow, very fine needles: mp phase change at 244°-245° C., actual mp>300° C.; TLC (10% MeOH in 50% EtOAc/CHCl3) Rf 0.41; 1H NMR (CDCl3) δ8.53(m, 1H), 8.00 (app d, 1H), 7.6-7.8 (m, 3H), 7.4-7.6 (m, 3H), 7.09 (s, 1H); IR (KBr) 1618, 1593, 1571, 1544, 1483, 1464, 1445, 748 cm-1 ; MS (NH3), m/e (%) 252.1 (100, (M+H)+). Anal. Calcd for C15H9NOS: C, 71.69; H, 3.61; N, 5.57; S, 12.76. Found: C, 71.39; H, 3.51; N, 5.43; S, 12.68.

reactant | Sulfuryl chloride | 3.15 mmole, 255 ml, 1.05 equiv. | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 2-[2-[(phenylmethyl)thio]phenyl]-4(1H)-quinolinone | 3 mmole, 1.03 g, 1 equiv. | C1(=CC=CC=C1)CSC1=C(C=CC=C1)C=1NC2=CC=CC=C2C(C1)=O | C22H17NOS
reactant | 1,4-diazabicyclo[2.2.2]octane | 4.5 mmole, 504.8 mg, 1.5 equiv. | N12CCN(CC1)CC2 | C6H12N2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | 5H-[1,2]benzisothiazolo[2,3-a]quinoline-5-one | 0.28 g, 37% | C1=CC=CC=2C(C=C3N(C12)SC1=C3C=CC=C1)=O | C15H9NOS
